US06706700B2
i)—A solution of (7α,17β)-3-methoxy-7-methylestra-1,3,5(10),14-tetraen-17-ol [Segaloff, A. et al, Steroids 22, 99 (1973); 25.4 g] and diiodomethane (27 ml) in dry dichloromethane (500 ml) was cooled to 0° C. A solution of diethylzinc in hexane (15% wt., 300 ml) was added in 1 h and the reaction mixture was stirred for 21 h at room temperature. Ice was added and the mixture was poured into a saturated aqueous solution of ammonium chloride. The product was extracted into diethyl ether; the combined organic phases were washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. Column chromatography afforded (7α,14β,15β,17β)-3-methoxy-7-methyl-14,15-methyleneestra-1,3,5(10)-trien-17-ol (6.50 g).

reactant | (7α,17β)-3-methoxy-7-methylestra-1,3,5(10),14-tetraen-17-ol | COC1=CC=2C[C@H]([C@H]3C4=CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O)C | C20H26O2
reactant | diiodomethane | 27 ml | ICI | CH2I2
reactant | diethylzinc | C(C)[Zn]CC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | hexane | 300 ml | CCCCCC | C6H14
product | (7α,14β,15β,17β)-3-methoxy-7-methyl-14,15-methyleneestra-1,3,5(10)-trien-17-ol | 6.50 g | COC1=CC=2C[C@H]([C@H]3[C@@]45[C@@H](C[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O)C5)C | C21H28O2
